US08053438B2
To a microwave safe 30 ml tubes were charged with (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone (0.500 g, 1.43 mmol), 2-fluoropyridin-3-ylboronic acid (0.241 g, 1.71 mmol), tetrakis(triphenylphosphine)palladium(0) (0.165 g, 0.143 mmol) and a 2M solution of sodium carbonate monohydrate (2.14 mL, 4.28 mmol) in 1,4-dioxane. The flasks were sealed and heated to 150° C. for 45 min in a microwave. The reaction mixture was diluted with DCM (75 mL), washed with water and brine. It was dried over magnesium sulfate, concentrated and dried in vacuo. It was suspended in DCM/MeOH and stirred. The insoluble material was collected by filtration, recrystallized overnight from boiling MeOH and hexane, then dried in a vacuum oven to give (1H-benzo[d]imidazol-2-yl)(4-(3-(2-fluoropyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone as yellow solid. LC/MS: MS (ESI, pos. ion) m/z: 412.1 (M+1).

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | 1.43 mmol, 0.500 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
reactant | 2-fluoropyridin-3-ylboronic acid | 1.71 mmol, 0.241 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate monohydrate | 4.28 mmol, 2.14 mL | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.143 mmol, 0.165 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1H-benzo[d]imidazol-2-yl)(4-(3-(2-fluoropyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2C(=NC=CC2)F | C23H14FN5O2
